* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE06\LTspice\CA\TBJ02CA.asc
R1 cc B {R1}
RC cc C {RC}
Vcc cc 0 {Vcc}
Q1 C B N001 0 TBJ
Ci B CAin {Cx}
Co CAout C {Cx}
Vca CAin 0 SINE(0 0.01m 10k)
RL CAout 0 10Meg
RE N001 0 {RE}
CE N001 0 {Cx}
R2 B 0 {R2}
R3 N002 N004 {R1}
RC1 N002 N003 {RC}
Vcc1 N002 0 {Vcc}
Q2 N003 N004 N005 0 TBJ
Ci1 N004 0 {Cx}
Co1 CAout2 N003 {Cx}
Vca1 CAout2 0 SINE(0 1.1m 10k)
RE1 N005 0 {RE}
CE1 N005 0 {Cx}
R4 N004 0 {R2}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.01 0
.meas Vipp PP V(CAin)
.meas Iipp PP I(Ci)
.meas Zi param Vipp/Iipp
.meas Vopp PP V(CAout)
.meas Av param -Vopp/Vipp
.meas Vopp2 PP V(CAout2)
.meas Iopp2 PP I(Co1)
.meas Zo param Vopp2/Iopp2
.param Vcc=25 R1=39k R2=10k Rc=270 Re=270 Cx=100u
.model TBJ NPN(IS=10f BF=50 VAF=75)
.meas re param Rpiq1tbj/BetaDCq1tbj
.meas zocalc param Roq1tbj*Rc/(Roq1tbj+Rc)
.meas avcalc param -zocalc/re
.meas rth param R1*R2/(R1+R2)
.meas zicalc param rth*BetaDCq1tbj*re/(rth+BetaDCq1tbj*re)
.backanno
.end
